* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\3725-3726.asc
* Generated by LTspice 24.1.9 for Windows.
L1 N017 N022 300µ Rser=.38
L2 N016 N023 1200µ Rser=.91
C1 N020 N022 1µ
X§U1 N014 N024 N013 N016 N023 0 N007 N019 0 N009 0 LTC3725
C6 N024 0 .001µ
R1 N023 0 162K
R2 IN N013 100K
R3 IN N014 365K
R4 N014 0 15K
C7 N019 0 1µ
M§Q1 IN N013 N019 N019 FDC2512
X§U2 N010 N008 0 N015 N018 N021 0 0 0 N012 0 N003 0 N020 N017 N011 LTC3726
C8 N021 0 .001µ
C9 N018 0 680p Rser=20K
R5 OUT N015 110K
R6 N015 0 24.9K
V1 IN 0 36
L3 IN N005 194µ Rpar=10K
M§Q2 N005 N007 N009 N009 Si7540DP_N
R8 N009 0 25m
L4 N003 N006 9.58µ Rpar=10K
M§Q3 N003 N010 0 0 IRF6623
M§Q4 N006 N008 N012 N012 IRF6623
C14 OUT 0 1000µ
L5 N001 0 100µ Rser=2 Rpar=10K
D1 N001 N002 CMDSH2-3
C15 N002 0 10µ
R10 N002 N004 500
D2 0 N004 BZX84C8V2L
Q5 N002 N004 N011 0 FZT849
C16 N011 0 34µ
L6 N003 OUT 1.5µ Rpar=1K
Rload OUT 0 .165
R9 N012 0 2m
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
K1 L3 L4 L5 1
K2 L1 L2 1
.tran .75m startup
.lib LTC3725.sub
.lib LTC3726.sub
.backanno
.end
