* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD4030-24.asc
* Generated by LTspice 24.1.9 for Windows.
VinP input+ 0 SINE(2.5 2 2k)
Cfilt1 IN+ 0 1n
Rfilt1 input+ IN+ 33
Rfilt2 IN- input- 33
Cfilt2 0 IN- 1n
V3 CNV 0 PULSE(0 1.8 500n .2n .2n 19.8n 500n)
V4 _RST 0 PWL(0 0 1n 0 2n 1.8)
VinN input- 0 SINE(2.5 2 2k 0 0 180)
V7 REF 0 5
V8 N001 0 5.4
R1 Vout 0 10k
X§U1 IN+ N001 0 Vout REF CNV IN- _RST vOrto Busy AD4030-24
.tran 0 2m
* IN+, IN-: Analog inputs. Transients from sampling caps are simulated. Input range is +/-VREF
* REF: For 5V VREF VDD should be 5.4V +/-100mV
* VDD: For REF=4.096V VDD=4.75V to 5.25V For REF=4.5V VDD= 4.8V to 5.25V
* Digital Out: Digital representation of output. +/-2^23 This can be used to drive DAC inputs
* Vout: Analog output +/-VREF
* CNV: 2MHz max 0V-1.8V logic level
* RSTn: Resets ADC. Tie to 1.8V for normal operation
.lib AD4030-24.sub
.backanno
.end
