* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD4130-8.asc
* Generated by LTspice 24.1.9 for Windows.
V4 VDD 0 2.5
V2 N001 0 0
V3 input+ N001 SINE(0 {Amplitude} 10)
V1 N001 input- SINE(0 {Amplitude} 10)
X§U1 input+ input- 0 0 0 0 0 VDD Vout CLK AD4130-8 GAIN=1 PGA_BYP=0 I1=0 I2=0 REF_SELECT=2.5 CLK_SEL=0 FS_WORD=2
.param Amplitude = 2.7
* Only one channel of the AD4130-8 is modelled and other channels and related functions and pins are not modeled.The following parameters can be \ndefined by right-clicking on the AD4130-8 symbol. \n \nGAIN= 1,  2, 4, 8, 16, 32, 64, 128; sets the gain of PGA.\nPGA_BYP=0,1; 0 for disable PGA bypass, 1 for enable PGA bypass\nI1/2 = 0.1u, 10u, 20u, 50u, 100u, 150u, 200u; control the two excitation sources IOUT1 and IOUT2 respectively with values specified in the Datasheet.\nREF_SELECT=0, 1.25, 2.5; set which reference voltage to use, set 0 to use external voltage set through REF_P and REF_M pins.\nCLK_SEL=0, 1;  set to 0 to observe the internal clock at the CLK pin,  set to 1 to use an external clock\nFS_WORD=1 to 2047;  set to any integer value from 1 to 2047 to change Output Data Rate(ODR) of the ADC between 1.17SPS to 2.4kSPS
.tran 100m
.lib AD4130-8.sub
.backanno
.end
