* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD4630-16.asc
* Generated by LTspice 24.1.9 for Windows.
Vin_cm N001 0 {cmval}
VinP input+ N001 SINE(0 2 2000)
Cfilt1 IN+ 0 1n
Rfilt1 input+ IN+ 33
Rfilt2 IN- input- 33
Cfilt2 0 IN- 1n
V3 CNV 0 PULSE(0 1.8 500n .2n .2n 19.8n 500n)
V4 RSTn 0 PWL(0 0 1n 0 2n 1.8)
VinN input- N001 SINE(0 2 2000 0 0 180)
V7 VREF 0 5
V8 VDD 0 5.4
R1 Vout 0 10k
X§U1 IN+ VDD 0 Vout VREF CNV IN- RSTn NC_01 NC_02 AD4630-16
.tran 0 2m 0 1n
.options plotwinsize=0 numdgt=15
.param cmval=2.5
* IN+, IN-: Sampling transients from analog inputs are modeled. Input range is +/-Vref.\nREF: For 5V Vref, VDD should be 5.4V +/-100mV\nVDD: For Vref=4.096V Vdd = 4.75V to 5.25V. For Vref=4.5V Vdd= 4.8V to 5.25V\nVout: Analog output +/-Vref\nCNV: 2MHz max 0V-1.8V logic level\nRSTn: Resets ADC. Tie to 1.8V for normal operation
.lib AD4630-16.sub
.backanno
.end
