* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD4630-24.asc
* Generated by LTspice 24.1.9 for Windows.
Vin_cm N001 0 {cmval}
VinP input+ N001 2.5 Rser=0
Cfilt1 IN+ 0 1n
Rfilt1 input+ IN+ 33
Rfilt2 IN- input- 33
Cfilt2 0 IN- 1n
V3 CNV 0 PULSE(0 1.8 500n .2n .2n 19.8n 500n)
V4 _RST 0 PWL(0 0 1n 0 2n 1.8)
V7 VREF 0 5
V8 VDD 0 5.4
R1 Vout 0 10k
X§U1 IN+ VDD 0 Vout VREF CNV IN- _RST NC_01 NC_02 AD4630-24
VinN N001 input- 0 Rser=0
.tran 1m
.param cmval=2.5
.lib AD4630-24.sub
.backanno
.end
