* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD7380-4.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N001 INA+ INA- Vout0 0 N009 INB+ INB- Vout1 INC+ INC- Vout2 IND+ IND- Vout3 AD7380-4
V1 N009 0 PULSE(0 3.3 100n .2n .2n 10n 250n)
V2 N001 0 3.3
V3 N002 0 PWL(0 0 100u 3.3)
R1 INA+ N002 10
V4 N003 0 PWL(0 3.3 100u 0)
R2 INA- N003 10
C2 0 Vout0 10p
C3 0 Vout1 10p
C4 0 Vout2 10p
C5 0 Vout3 10p
V5 N004 0 PWL(0 0 100u 3.3)
R3 INB+ N004 10
V6 N005 0 PWL(0 3.3 100u 0)
R4 INB- N005 10
V7 N006 0 PWL(0 0 100u 3.3)
R5 INC+ N006 10
V8 N007 0 PWL(0 3.3 100u 0)
R6 INC- N007 10
V9 N008 0 PWL(0 0 100u 3.3)
R7 IND+ N008 10
V10 N010 0 PWL(0 3.3 100u 0)
R8 IND- N010 10
.tran 110u
.lib AD7380-4.sub
.backanno
.end
