* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD4001.asc
* Generated by LTspice 24.1.9 for Windows.
V6 N002 0 1.8
V1 N003 0 PWL(0 0 100u 5)
R1 IN+ N003 10
C1 0 Vout 10p
V4 N005 0 PULSE(0 1.8 227n 0.1n 0.1n 40n 500n)
V3 N001 0 5
V2 N004 0 PWL(0 5 100u 0)
R2 IN- N004 10
X§U1 N001 N002 IN+ MP_01 0 IN- Vout N005 AD4001 EN_Hi_Z=1
.tran 110u
.lib AD4001.sub
.backanno
.end
