* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD4003.asc
* Generated by LTspice 24.1.9 for Windows.
V6 N002 0 1.8
V1 N003 0 PWL(0 0 100u 5)
R1 N004 N003 10
C1 0 N005 10p
V4 N008 0 PULSE(0 1.8 227n 0.1n 0.1n 40n 500n)
V3 N001 0 5
V2 N007 0 PWL(0 5 100u 0)
R2 N006 N007 10
X§U1 N001 N002 N004 MP_01 0 N006 N005 N008 AD4003 EN_Hi_Z=1
.tran 110u
.lib AD4003.sub
.backanno
.end
