* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD4004.asc
* Generated by LTspice 24.1.9 for Windows.
V3 N002 0 1.8
V1 N003 0 SINE(1 2 10k)
R1 N004 N003 10
C1 0 N005 10p
V4 N006 0 PULSE(0 1.8 227n 0.1n 0.1n 40n 1u)
V2 N001 0 5
X§U1 N001 N002 N004 MP_01 0 N006 MP_02 MP_03 N005 AD4004 EN_Hi_Z=1
.tran 110u
.lib AD4004.sub
.backanno
.end
