* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD4058.asc
* Generated by LTspice 24.1.9 for Windows.
V2 N002 0 PWL(30n 0 40n 1.8)
V3 CNV 0 PULSE(0 1.8 1u 10n 10n 20n 2u)
V1 N001 0 2.5
VinP1 input+ 0 SINE(1.25 1.25 2k)
Cfilt1 vIN+ 0 1n
Rfilt1 input+ vIN+ 301
Rfilt2 vIN- input- 301
Cfilt2 0 vIN- 1n
VinN1 input- 0 SINE(1.25 1.25 2k 0 0 180)
X§U1 vIN+ vIN- 0 N001 CNV N002 VOrti VOrto AD4058
.tran 0.5m
* Notes:\n \nVOrti: Analog output \nVOrto: "Digital" representation of the input
.lib AD4058.sub
.backanno
.end
