* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD4080.asc
* Generated by LTspice 24.1.9 for Windows.
V4 Refin 0 {VREF}
C9 0 ADC_out 0.1p
C10 0 ADC_out_dsp 0.1p
V1 VOCM 0 1.5
V2 _DIS 0 3.3
R15 ADC_IN+ FDA_OUT_P 25
R16 ADC_IN- FDA_OUT_N 25
R17 AUXIN+ FDA_OUT_P 100
R18 AUXIN- FDA_OUT_N 100
C15 ADC_IN+ ADC_IN- 39p
C16 AUXIN+ AUXIN- 10p
V_FS1 N006 0 {fs}
V_SEL1 N008 0 {sel}
V_DEC1 N007 0 {decimation}
V6 VS+ 0 5
V7 VS- 0 -5
V14 VDD33 0 3.3
V15 CNV 0 PULSE(0 1.1 {ACQ_delay} 0.2n 0.2n {0.9*(1/fs)} {1/fs})
X§U2 N002 FDA_IN+ FDA_IN- N004 VS+ VS- FDA_OUT_N FDA_OUT_P _DIS VOCM VREF 0 0 ADA4945-HP
R5 N001 N002 {RF}
R6 N005 N004 {RF}
C11 FDA_IN+ N002 {CFilt_2}
C12 FDA_IN- N004 {CFilt_2}
R7 N001 Vin_p {RG}
R8 N005 Vin_n {RG}
C13 N001 0 {CFilt_1}
C14 0 N005 {CFilt_1}
R19 N001 FDA_IN+ {RMFB}
R20 N005 FDA_IN- {RMFB}
Vin_n N003 Vin_n SINE(0 {input_Vpp/4} {input_freq}) AC 0.5 0
Vin_cm N003 0 {input_cm} AC 0
Vin_p Vin_p N003 SINE(0 {input_Vpp/4} {input_freq}) AC 0.5 0
X§U1 0 VDD33 Refin ADC_IN+ ADC_IN- AUXIN+ AUXIN- CNV ADC_out ADC_out_dsp N007 N008 N006 ADC_out AD4080
.param VREF=3
* External voltage reference
* .tran 5u
* .noise V(ADC_out_dsp) Vin_p dec 100 10 1G
.meas NOISE output_noise_rms INTEG V(onoise) FROM 10 TO {Fmax_noise_integration}
.meas NOISE full_scale_sine_rms PARAM 2*VREF/(2*sqrt(2))
.meas NOISE dynamic_range PARAM 20*log10(full_scale_sine_rms/output_noise_rms)
.param Fmax_noise_integration = 1G
.meas NOISE ENOB PARAM (dynamic_range - 1.76)/6.02
* Fully differential ADC driver
* ADC Kickback Filter
* Set to ~80 MHz BW to allow\ndriver to settle ADC kickback.
* .ac dec 1000 1k 1G
.noise V(ADC_out) Vin_p dec 100 10 1G
* AD4080 Digital Filtering Configuration
* ADC output pre-digital filtering
* ADC output post digital filtering (AC and NOISE simulations only)
* SEL input:\n  The voltage applied at this input selects the\n  digital filter type.\n    0V = No Filter \n    1V = Sinc1 \n    2V = Sinc5\n    3V = Sinc5 + Comp
* DEC input:\n  The voltage applied at this pin sets\n  the N value for decimation.\n  For Sinc1 and Sinc5 Filters Decimation = N\n  For Sinc5 +Comp Decimation = (N * 2)\n  2 = N = 2 \n  4 = N = 4 \n  8 = N = 8\n  16 =........\n  ...............\n  256 =   N = 256 (Max Setting for Sinc5 and Sinc5 + Comp)\n  512 =   N = 512 (Sinc1 Only)\n  1024 = N = 1024 (Sinc1 Only)
* Multi-feedback topology, low-pass, second-order
* --> AD4080 digital filter output (ADC_out_dsp)\n     does not support transient simulations
* Other signals
* Simulation commands
* Measurements
* Supplies
* AUX input filter
* FS input:\n  A voltage equal to the sampling frequency in Hertz\n  must be supplied at this input.
* Results can be found in the "SPICE Output Log" (View->"Spice Output Log" or Ctrl+L").
* 3dB bandwidth (AC analysis)
* Noise parameters: dynamic range and ENOB (NOISE analysis)
* --> Noise simulation with output BEFORE digital filtering (ADC_out)
* --> Noise simulation with output AFTER digital filtering (ADC_out_DSP)
.param decimation 4
* Input signal
.meas AC ADC_out_max MAX MAG(V(ADC_out))
.meas AC bw_3db FIND frequency WHEN mag(V(ADC_out))=(ADC_out_max/sqrt(2))
.param sel 3
* The default configuration (sel=3, decimation=4, fs=40MHz) results in a \nSinc5 + Compensation filter with a 3dB bandwidth of ~2MHz.
* --> SNR
* AD4080 must be used with an external 3V reference.\nThis parameter is used in the Dynamic Range calculations.
.param input_Vpp=2.966
.param input_freq = 500k
.param input_cm = 0
.param fs = 40MEG
.param ACQ_delay = 10n
* --> ADC Sampling rate. For AD4080 min is 1.25 Msps, max 40 Msps
* --> Delay from simulation start to first sampling pulse
* Convert signal
.param AFE_gain = 1 ;--> AFE gain = Rf/Rg
.param RF = 499
.param RMFB = 499
.param RG = {RF/AFE_gain}
.param CFilt_1=150p
.param CFilt_2=56p
* Default settings:\n  Gain = 1\n  3dB BW = ~2.5 MHz.
* Datasheet recommended values
.lib AD4080.sub
.lib ADA4945-HP.sub
.backanno
.end
