* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD4081.asc
* Generated by LTspice 24.1.9 for Windows.
C1 0 ADC_out 0.1p
C2 0 ADC_out_dsp 0.1p
X§U2 N002 FDA_IN+ FDA_IN- N004 VS+ VS- FDA_OUT_N FDA_OUT_P _DIS VOCM Refin 0 0 ADA4945-HP
V11 VOCM 0 1.5
V12 _DIS 0 3.3
R1 N001 N002 {RF}
R3 N005 N004 {RF}
C3 FDA_IN+ N002 {CFilt_2}
C4 FDA_IN- N004 {CFilt_2}
R9 ADC_IN+ FDA_OUT_P 25
R10 ADC_IN- FDA_OUT_N 25
R11 AUXIN+ FDA_OUT_P 100
R12 AUXIN- FDA_OUT_N 100
C7 ADC_IN+ ADC_IN- 78p
C8 AUXIN+ AUXIN- 10p
R13 N001 Vin_p {RG}
R14 N005 Vin_n {RG}
V_FS N006 0 {fs}
V_SEL N008 0 {sel}
V_DEC N007 0 {decimation}
C9 N001 0 {CFilt_1}
C10 0 N005 {CFilt_1}
R5 N001 FDA_IN+ {RMFB}
R6 N005 FDA_IN- {RMFB}
V1 VS+ 0 {FDA_Vsp}
V2 VS- 0 {FDA_Vsn}
V6 VDD33 0 {ADC_VDD33}
V14 CNV 0 PULSE(0 1.1 {ACQ_delay} 0.2n 0.2n {0.9*(1/fs)} {1/fs})
Vin_n N003 Vin_n SINE(0 {input_Vpp/4} {input_freq}) AC 0.5 0
Vin_cm N003 0 {input_cm} AC 0
Vin_p Vin_p N003 SINE(0 {input_Vpp/4} {input_freq}) AC 0.5 0
X§U1 0 VDD33 Refin ADC_IN+ ADC_IN- AUXIN+ AUXIN- CNV ADC_out ADC_out_dsp N007 N008 N006 ADC_out AD4081
V3 Refin 0 3
.tran 5u
* .noise V(ADC_out_dsp) Vin_p dec 100 10 1G
.meas NOISE output_noise_rms INTEG V(onoise) FROM 10 TO {Fmax_noise_integration}
.meas NOISE full_scale_sine_rms PARAM 2*VREF/(2*sqrt(2))
.param VREF=3
.meas NOISE dynamic_range PARAM 20*log10(full_scale_sine_rms/output_noise_rms)
.param Fmax_noise_integration = 1G
.meas NOISE ENOB PARAM (dynamic_range - 1.76)/6.02
* ADC driver
* ADC Kickback Filter
* Set to ~80 MHz BW to allow\ndriver to settle ADC kickback.
* .ac dec 1000 1k 1G
* .noise V(ADC_out) Vin_p dec 100 10 1G
* AD4081 Digital Filtering Configuration
* ADC output pre-digital filtering
* ADC output post digital filtering (AC and NOISE simulations only)
* SEL input:\n  The voltage applied at this input selects the\n  digital filter type.\n    0V = No Filter \n    1V = Sinc1 \n    2V = Sinc5\n    3V = Sinc5 + Comp
* DEC input:\n  The voltage applied at this pin sets\n  the N value for decimation.\n  For Sinc1 and Sinc5 Filters Decimation = N\n  For Sinc5 +Comp Decimation = (N * 2)\n  2 = N = 2 \n  4 = N = 4 \n  8 = N = 8\n  16 =........\n  ...............\n  256 =   N = 256 (Max Setting for Sinc5 and Sinc5 + Comp)\n  512 =   N = 512 (Sinc1 Only)\n  1024 = N = 1024 (Sinc1 Only)
* Multi-feedback topology, low-pass, second-order
* --> AD4081 digital filter output (ADC_out_dsp)\n     does not support transient simulations
* Other signals
* Simulation commands
* Parameters
* Measurements
* Supplies
.param FDA_VSp = 5V
.param FDA_VSn = -5V
* Release Date: 2024/07/04\n \nDescription: This simulation demonstrates driving the AD4081 high-speed, precision ADC.\n \nFor support, you can post your questions in https://ez.analog.com/design-tools-and-calculators/ltspice/ after you have created an account.
* Simulation file notes
* Analog front-end
* ADC sampling
.param fs = 40MEG
.param ACQ_delay = 10n
* --> ADC Sampling rate. For AD4081 the minimum is 1.25 Msps, maximum 40 Msps
* --> Delay from simulation start to first sampling pulse
* Power supplies
* --> Supply span range for ADA4945-1 is 3V to 10V
* --> Input signal amplitude (peak-to-peak). 2.966 Vpp corresponds to ~-0.1 dBFS\n--> Frequency for the sinusoidal differential input signal\n--> Input signal DC common mode voltage
.param input_Vpp=2.966
.param input_freq = 500k
.param input_cm = 0
* Input signal
* The CNV or convert signal is a periodic train of pulses\nwhose rising edges trigger ADC conversion. The frequency\nof these pulses (fs) sets the sampling rate.
* --> VDD33 supply rail for AD4081
.param ADC_VDD33 = 3.3V
* AUX input filter
* FS input:\n  A voltage equal to the sampling frequency in Hertz\n  must be supplied at this input.
* Results can be found in the "SPICE Output Log" (View->"Spice Output Log" or Ctrl+L").
* 3dB bandwidth (AC analysis)
* Noise parameters: dynamic range and ENOB (NOISE analysis)
* --> Noise simulation with output BEFORE digital filtering (ADC_out)
* --> Noise simulation with output AFTER digital filtering (ADC_out_DSP)
* .step param decimation list 4 128 256
* Reference
* --> AD4081 can only be used with a 3V reference. This parameter is only used in the Dynamic Range calculations.
* ADC digital filtering
* See the "AD4081 Digital Filtering Configuration" section under the ADC in the schematic below.
.param decimation 4
* Input signal
.param AFE_gain = 1 ;--> AFE gain = Rf/Rg
.param RF = 499
.param RMFB = 499
.param RG = {RF/AFE_gain}
.param CFilt_1=150p
.param CFilt_2=56p
.meas AC ADC_out_max MAX MAG(V(ADC_out))
.meas AC bw_3db FIND frequency WHEN mag(V(ADC_out))=(ADC_out_max/sqrt(2))
* ; Run a stepped simulation comparing 4 different\n; configurations of the digital filter:\n; Config 1: No digital filtering\n; Config 2: Sinc1 filter, decimation by 64\n; Config 3: Sinc5 filter, decimation by 64\n; Config 4: Sinc5 filter, decimation by 32\n;\n.step param dsp_config list 1 2 3 4\n.param sel = table(dsp_config, 1,0, 2,1, 3,2, 4,2)\n.param decimation = table(dsp_config, 1,2, 2,64, 3,64, 4,32)
.param sel 3
* The default configuration (sel=3, decimation=4, fs=40MHz) results in a \nCompensation filter with a bandwidth of ~2MHz.
* --> SNR
* 3V external reference
.lib AD4081.sub
.lib ADA4945-HP.sub
.backanno
.end
