* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD4112.asc
* Generated by LTspice 24.1.9 for Windows.
V4 N005 0 5
V2 N003 0 3.3
R1 0 Vout 10Meg
V1 N002 0 PULSE(0 2.5 97u 1n 1n 10m) AC 1
C1 0 N001 0.1µ
V5 N006 0 0
V3 N004 0 0
E1 VIN0 0 N002 0 1
E2 VIN1 0 N002 0 -1
X§U1 VIN0 VIN1 0 0 0 N006 MP_01 N005 Vout 0 MP_02 N001 N003 NC_03 NC_04 N004 NC_05 AD4112 ODR=31.25k fsrSEL=0 inputSEL=0 sincSEL=0 clkSEL=0 refSEL=1 sing_cyc=0
.tran 5m startup
* Only one channel of the AD4112 is modelled and other channels and related functions and pins are not modeled\n \nThe following parameters can be defined by right-clicking on the AD4112 symbol: \nODR: Sets the output data rate\nfsrSEL:  Sets full-scale range.  0 for +/- 10*Vref, 1 for +/- 10V, 2 for +/- 5V, 3 for 0V to 10V, 4 for 0V to 5V\ninputSEL: 0 for VIN1-VIN0 voltage input, 1 for VIN1 input, 2 for VIN0 input, 3 for IIN1 IIN0 input\nsincSEL:  0 for SINC3 filter, 1 for SINC5+SINC1 filter\nrefSEL: 0 for REFP-REFM, 1 for internal 2.5V reference, 2 for AVDD-AVSS\nclkSEL: 0 for internal 2 MHz clock\nsing_cyc: 0 for normal ODR, 1 for single cycle settling
* This model emulates the actual part, including startup behavior.\nWhen the part is first powered on, there is a delay of Tsettle/2 of the set ODR is required for the input voltage.\n \nTo simulate startup behavior, please consider the simulation startup command.  For example ".tran 0 5m startup".  \nIf startup is present, then DC sources will start at 0V and reach their final value 20 us later.  For other ramp rates, please use piecewise linear (PWL) or pulse sources.\n \nIf one wishes to simulate steady-state behavior, then one must run the simulation for at least Tsettle of the set ODR before applying the input signal.
.lib AD4112.sub
.backanno
.end
